US08202865B2
Step 2: (2-fluoro-4-{5-[3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}phenoxy)acetic acid, hydrochloride salt
Tert-butyl (2-fluoro-4-{5-[3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}phenoxy)acetate (340 mg, 0.66 mmol) was dissolved in a 4M solution of HCl in dioxane (4 mL). The resulting mixture was stirred at RT for 15 hours. The precipitate was filtered off, washed with Et2O (3×) and pentane (3×), then dried under reduced pressure to give the title compound an as white powder (287 mg, 88%). 1HNMR (DMSO-d6, 300 MHz): 8.18 (brs, 1H), 8.07 (brs, 1H), 7.86 (m, 2H), 7.40 (brs, 1H), 7.30 (dd, J=8.6, 8.5 Hz, 1H), 4.91 (s, 2H), 4.58 (brs, 2H), 3.41 (s, 3H), 3.26 (m, 1H), 3.07 (m, 1H), 2.65 (m, 1H), 1.84-1.47 (m, 6H), 0.87 (brs, 3H). LC/MS (Method A): 456.3 (M+H)+; 454.4 (M−H)−. HPLC (Method A) Rt: 3.42 min (Purity: 99.7%).

reactant | Tert-butyl (2-fluoro-4-{5-[3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}phenoxy)acetate | 0.66 mmol, 340 mg | FC1=C(OCC(=O)OC(C)(C)C)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)COC | C28H34FN3O5
reactant | HCl | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (2-fluoro-4-{5-[3-(methoxymethyl)-4-(2-methylpiperidin-1-yl)phenyl]-1,2,4-oxadiazol-3-yl}phenoxy)acetic acid, hydrochloride salt | Cl.FC1=C(OCC(=O)O)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)COC | InChI=1S/C24H26FN3O5.ClH/c1-15-5-3-4-10-28(15)20-8-6-17(11-18(20)13-31-2)24-26-23(27-33-24)16-7-9-21(19(25)12-16)32-14-22(29)30;/h6-9,11-12,15H,3-5,10,13-14H2,1-2H3,(H,29,30);1H
